US07741347B2
Step 3: (R)-2-(2-fluorophenyl)-2-(piperidin-1-yl)acetic acid:
A mixture of (R)—((S)-1-phenylethyl) 2-(2-fluorophenyl)-2-(piperidin-1-yl)acetate (0.737 g, 2.16 mmol) and 20% Pd(OH)2/C (0.070 g) in ethanol (30 mL) was hydrogenated at room temperature and atmospheric pressure (H2 balloon) for 2 hours. The solution was then purged with Ar, filtered through diatomaceous earth (Celite™), and concentrated in vacuo. This provided the title compound as a colorless solid (0.503 g, 98%). 1H NMR (400 MHz, CD3OD) δ 7.65 (ddd, J=9.1, 7.6, 1.5 Hz, 1H), 7.47-7.53 (m, 1H), 7.21-7.30 (m, 2H), 3.07-3.13 (m, 4H), 1.84 (br s, 4H), 1.62 (br s, 2H). LCMS: Anal. Calcd. for C13H16FNO2: 237. found: 238 (M+H)+.

reactant | (R)—((S)-1-phenylethyl) 2-(2-fluorophenyl)-2-(piperidin-1-yl)acetate | 2.16 mmol, 0.737 g | FC1=C(C=CC=C1)[C@H](C(=O)O[C@@H](C)C1=CC=CC=C1)N1CCCCC1 | C21H24FNO2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd(OH)2/C | 0.070 g | [OH-].[OH-].[Pd+2]
product | (R)-2-(2-fluorophenyl)-2-(piperidin-1-yl)acetic acid | 0.503 g, 98% | FC1=C(C=CC=C1)[C@H](C(=O)O)N1CCCCC1 | C13H16FNO2
